US05147445
Synthesis of 1-(Diethylcarbamoyl)-3-(2-nitrophenylthio)-1,2,4-Triazole (compound No. 67)
3-(2-Nitrophenylthio)-1,2,4-triazole (4 g) and diethyl carbamoyl chloride (2.71 g) are dissolved in acetone (50 ml) and potassium carbonate (5.5 g) is added, followed by reaction for 5 h under reflux with stirring. After cooling, water (100 ml) is added to the reaction solution, whereupon the crystal of the end product precipitates. After drying, the crystal is recrystallized from ethyl acetate/n-hexane to produce the titled compound, 1-(diethylcarbamoyl)-3-(2-nitrophenylthio)-1,2,4-triazole, in an amount of 5.08 g; yield, 87.8%; m.p. 101°-103° C.

reactant | 3-(2-Nitrophenylthio)-1,2,4-triazole | 4 g | [N+](=O)([O-])C1=C(C=CC=C1)SC1=NNC=N1 | C8H6N4O2S
reactant | diethyl carbamoyl chloride | 2.71 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-(diethylcarbamoyl)-3-(2-nitrophenylthio)-1,2,4-triazole | C(C)N(C(=O)N1N=C(N=C1)SC1=C(C=CC=C1)[N+](=O)[O-])CC | C13H15N5O3S
